US06395916B1
Synthesis of N-(4-methoxyphenyl)pyrrolidine
An oven dried test tube was charged with Pd2(dba)3 (4.5 mg, 0.005 mmol), 27 (7.4 mg, 0.015 mmol), 4-chloroanisole (140 mg, 0.98 mmol), pyrrolidine (85 mg, 1.2 mmol), NaOt-Bu (135 mg, 1.4 mmol), toluene (2 mL), and purged with argon. The mixture was heated to 80° C. and stirred for 18 hours. The reaction mixture was cooled to room temperature, diluted with ether (5 mL), filtered through a plug of celite, and concentrated in vacuo. The residue was purified by flash chromatography on silica gel to give 165 mg (95%) of the title product as colorless crystals.

reactant | 4-chloroanisole | 0.98 mmol, 140 mg | ClC1=CC=C(C=C1)OC | C7H7ClO
reactant | pyrrolidine | 1.2 mmol, 85 mg | N1CCCC1 | C4H9N
reactant | NaOt-Bu | 1.4 mmol, 135 mg | CC(C)(C)[O-].[Na+]
catalyst | Pd2(dba)3 | 0.005 mmol, 4.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-methoxyphenyl)pyrrolidine | 165 mg, 95% | COC1=CC=C(C=C1)N1CCCC1 | C11H15NO
